US04179558
(A) 2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene]-3,4-dihydro-6-methoxy-1(2H)-naphthalenone
Interaction of 16 g of 6-methoxy-1-tetralone and 19 g of 4-(3-dimethylaminopropoxy)benzaldehyde in 95 ml of ethanol in the presence of 0.6 g of potassium hydroxide following the procedure described in Example 1A, yields 27 g of crude product; melting point 68-71° C. Following crystallization from 70 ml of diisopropyl ether, the product weighs 18.6 g, melting point 76°-78° C.

reactant | 6-methoxy-1-tetralone | 16 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 4-(3-dimethylaminopropoxy)benzaldehyde | 19 g | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
solvent | ethanol | 95 ml | C(C)O | C2H6O
product | 2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene]-3,4-dihydro-6-methoxy-1(2H)-naphthalenone | 27 g | CN(CCCOC1=CC=C(C=C1)C=C1C(C2=CC=C(C=C2CC1)OC)=O)C | C23H27NO3
